US07557103B2
Preparation of 3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine
A solution of 3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-8-(1-propyl-but-1-enyl)-imidazo[1,2-b]pyridazine (23 mg, 0.06 mmol), MeOH (19 mL), and 10% Pd—C (69 mg) is hydrogenated at 30 psi at room temperature for 2 hours. The mixture is filtered through celite, washed with EtOAC and concentrated to dryness to give the title compound (20.5 mg, 89%) %). 1H NMR (CDCl3): δ 7.8 (dd, J=4.8, 8.5 Hz, 1H), 7.5 (dd, J=2.5, 9.7 Hz, 1H), 7.2 (m, 1H), 6.9 (s, 1H), 3.69 (s, 1H), 2.62 (s, 3H), 2.58 (s, 3H), 2.4 (m, 2H), 2.3 (s, 3H), 1.8 (m, 4H), 1.29 (m, 4H), 0.93 (t, J=7.1, 6H) ppm. Mass spectrum (m/e): 410 (M+1).

reactant | 3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-8-(1-propyl-but-1-enyl)-imidazo[1,2-b]pyridazine | 0.06 mmol, 23 mg | FC1=CC2=C(SC(=C2C)C2=C(N=C3N2N=C(C=C3C(=CCC)CCC)C)C)C=C1 | C24H26FN3S
catalyst | Pd—C | 69 mg | [Pd] | Pd
solvent | MeOH | 19 mL | CO | CH4O
product | 3-(5-fluoro-3-methyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine | 20.5 mg, 89% | FC1=CC2=C(SC(=C2C)C2=C(N=C3N2N=C(C=C3C(CCC)CCC)C)C)C=C1 | C24H28FN3S
